Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keppra
 
Attending: ___
 
Chief Complaint:
Frontal CNS lesion
 
Major Surgical or Invasive Procedure:
Needle Biopsy on ___
 
History of Present Illness:
___ RHW PMH HTN, left Bell's palsy, smoker and depression
transferred from OSH after presenting after two near falls in 24
hours, family concern for behavioral change in last ___ weeks 
and
likely mass on OSH NCHCT.  History obtained from pt's son 
___
and pt.

Son reports over past 3 wks, pt has become more withdrawn,
apathetic, stopped returning her family's calls, opening her 
mail
or paying her bills.  She was noted to be late to family
parties/appts.  She had also lost ___ lbs in a month or so. 
She was taken to her PCP's office where she was thought to have
worsening depression however her antidepressant Celexa was
already max'd out.

She was then noted by family to have episodes where she would
almost collapsed (ie. her left leg would begin to shake and
appeared to be close to buckling and family would quickly sit 
her
into a chair).  After a witnessed episode, patient admitted to
having at least one prior similar episode to this while in the
tub the day before.  She was subsequently taken to an OSH ED
where a ___ revealed extensive bifrontal edema and at least 
one
suspicious mass in the right frontal region.

Upon further questioning of patient, she reports having a daily
bifrontal headache for the past 2 wks, approx ___ in 
severity.
She's also noted a beige patchy obscuration of her vision in her
right eye only "on and off" for the past two weeks.

ROS: +Cough for the past 2 wks.  Denies head trauma, diplopia,
nausea/vomiting, dysphagia, dysarthria, lightheadedness or loss
of urine or bowels.  She's had lower back pain for the past 3
weeks.
 
Past Medical History:
HTN
L ___'s palsy
depression
anxiety
osteoporosis
h/o thyroiditis
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
T- 98.1  BP- 132/68  HR- 98  RR- 20  100 O2Sat RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa
Neck: supple, no carotid or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs
Lung: Clear to auscultation bilaterally
aBd: +BS soft, nontender
ext: no edema

Neurologic examination:
MS:
General:  alert, awake, normal affect 
Orientation:  oriented to person, place, date, situation
Attention: +MOYbw. Follows simple/complex commands. Slow with
pausing on Luria sequencing b/l but no difficulty drawing
alternating square and triangles in a row
___: fluent w/o paraphasic errors; comprehension,
repetition, naming and reading intact
Memory: Registers ___ then ___ w/clues and Recalls ___ at 5 min
L/R confusion: Touches left thumb to right ear
Praxis: Able to brush teeth
Intact 3D object copying and writing of sentence.

CN:
I: not tested
II,III:  VFF to confrontation, Right pupil 6mm->4mm and left
pupil 5mm->3mm reactive to light, fundi normal 
III,IV,V: EOMI, no ptosis. No nystagmus
V:  sensation intact V1-V3 to LT
VII:  Facial strength intact/symmetrical, symm forehead 
wrinkling
VIII:  hears finger rub bilaterally
IX,X:  palate elevates symmetrically, uvula midline
XI:  SCM/trapezeii ___ bilaterally
XII:  tongue protrudes midline, no dysarthria

Motor: Normal bulk and tone; left action tremor on FNF; no
asterixis or myoclonus. No pronator drift.

   Delt Bi Tri WE     FE     Grip  IO
   C5   C6 C7  C6     C7     C8/T1 T1
L  5    ___      5      5     5
R  5    ___      5      5     5

   IP  Quad ___  ___    PF
   L2  L3   L4-S1 L4  L5     S1/S2
L  5   5    5     5   5      5
R  5   5    5     5   5      5

Reflex: No clonus
   Bi Tri Bra Pat An Plantar
   C5 C7  C6  L4  S1 CST
L  2+ 2+  2+  2+  2+  Flexor
R  ___   2   2  Flexor

Sensation: Intact to light touch, cold, vibration and
proprioception throughout.  Pt reported slight difference 
between
the two sides (decr'd on the right) but then was unreliable on
further testing.

Coordination: finger-nose-finger w/mild action tremor with left
hand, heel to shin normal, RAMs normal.
Gait: Narrow based, steady.  Falls to the right on tandem.
Romberg: Negative
 
Pertinent Results:
___ 06:10AM BLOOD WBC-8.7 RBC-4.45 Hgb-11.5* Hct-34.2* 
MCV-77* MCH-25.8* MCHC-33.6 RDW-13.2 Plt ___
___ 06:20PM BLOOD WBC-9.4 RBC-4.40 Hgb-11.5* Hct-33.5* 
MCV-76* MCH-26.1* MCHC-34.3 RDW-13.6 Plt ___
___ 06:20PM BLOOD Neuts-72.9* Lymphs-16.4* Monos-5.2 
Eos-4.5* Baso-1.0
___ 06:10AM BLOOD ___ PTT-27.2 ___
___ 06:10AM BLOOD Glucose-96 UreaN-18 Creat-0.6 Na-139 
K-3.7 Cl-101 HCO3-27 AnGap-15
___ 06:20PM BLOOD Glucose-104 UreaN-18 Creat-0.6 Na-138 
K-3.9 Cl-100 HCO3-29 AnGap-13
___ 06:20PM BLOOD ALT-11 AST-11 LD(LDH)-151 AlkPhos-122* 
TotBili-0.6
___ 06:20PM BLOOD Lipase-18
___ 06:10AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9
___ 06:20PM BLOOD TotProt-7.0 Albumin-3.6 Globuln-3.4 
Calcium-9.6
Phos-3.7 Mg-2.0 UricAcd-4.1 Iron-19*
___ 06:20PM BLOOD calTIBC-254* Ferritn-141 TRF-195*
___ 06:20PM BLOOD TSH-3.3
___ 06:30AM BLOOD Phenyto-7.3*
___ 06:50AM BLOOD Phenyto-6.7*

MRI head (___):
FINDINGS: There are multiple enhancing masses, suspicious for 
metastatic  disease. The largest mass in the right frontal lobe 
measures 2.5 x 2 cm with a rim of contrast extending beyond the 
borders of the lesion consistent with blood brain barrier 
breakdown. There is significant associated vasogenic edema and 
mass effect on the frontal horn of the right lateral ventricle. 
The second largest lesion is a 1.5 x 1.3 cm enhancing mass in 
left gyrus rectus, also with significant vasogenic edema. 
Additional lesions include: an 0.8 cm ovoid lesion in the right 
prefrontal cortex, 0.5 cm lesion in the left parietal lobe, and 
a 0.6 cm lesion in the right temporal lobe. Additionally, there 
are several other tiny foci of enhancement which are too small 
to further characterize and should be followed closely on future 
exams. There is no leptomeningeal enhancement. 
  
There is no evidence of hemorrhage or infarction. No areas of 
restricted diffusion. There is no hydrocephalus and the basal 
cisterns are preserved. The calvarium and soft tissues are 
normal. A mucous retention cyst within the right maxillary sinus 
is noted. 
  
IMPRESSION: Multiple enhancing lesions within both cerebral 
hemispheres, most likely representing metastatic disease. These 
lesions have significant vasogenic edema and there is mass 
effect on the right lateral ventricle. 

CT torso (___):
1. Left lower lobe lung mass measuring 8.5 x 5.3 cm. 
2. Extensive pathologically enlarged mediastinal and 
supraclavicular lymph 
nodes. 
3. Hypodense lesions within both lobes of the thyroid gland. 
4. Ill-defined hypodense liver lesion within the right and left 
lobe as 
described above, and concerning for metastatic disease. 
5. Simple right lobe hepatic cyst. 
6. Bilateral kidney cysts. 
7. Calcified fibroid. 
8. Calcification of the aorta and its branches. 

.
Pathology Examination 

Name ___    Age     Sex Pathology #     ___ MRN# 
___       ___    ___ Female      ___ 
___ 
Report to:   ___. ___ 
___ by:   ___. ___ 

 

SPECIMEN SUBMITTED: ....(L. LUNG MASS)...1 JAR.

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 

DIAGNOSIS: 

Mass, left lung, needle core biopsy: Non-small cell carcinoma, 
favor poorly-differentiated squamous cell carcinoma.  

NOTE: Immunohistochemical stains for TTF-1, CK-7, and p63 are 
positive in tumor cells.  Immunostains for CK20 and S-100 are 
negative.  This profile is non-specific but is consistent with a 
lung primary.  

Clinical: ___ year old female with left lung mass and CNS 
metastases.
___:  The specimen is received in formalin in one part in a 
container labeled with ___ and the medical record 
number and consists of multiple scant fragments of tan rubbery 
soft tissue measuring up to 0.2 cm in greatest dimension. The 
specimen is entirely submitted in A.
.
CT HEAD W/O CONTRAST  ___ 3:06 ___

CT HEAD W/O CONTRAST

Reason: Worsened edema, midline shift 

UNDERLYING MEDICAL CONDITION:
___ year old woman with primary left lung tumor and metastatic 
CNS lesions with newly worsend left proximal arm weakness 
REASON FOR THIS EXAMINATION:
Worsened edema, midline shift 
CONTRAINDICATIONS for IV CONTRAST: None.

HISTORY: ___ female with primary lung tumor and 
metastatic CNS lesions, newly worsened left proximal arm.

COMPARISON: ___, and MR head ___.

TECHNIQUE: Contiguous axial images of the head were obtained 
without IV contrast.

FINDINGS: Again seen is extensive bifrontal vasogenic edema, 
with at least one discrete mass seen within the inferior right 
frontal lobe, measuring approximately 2.1 cm. Additional 
metastatic lesions are better assessed on the MR of the head 
performed ___. The overall degree of the vasogenic 
edema is unchanged from ___, head CT. Again seen is 
mild mass effect on the adjacent right frontal horn, as well as 
a minimal shift of normally midline structures, with subfalcine 
herniation of approximately 3 mm to the left. The caliber of the 
ventricular system is unchanged, without evidence of 
hydrocephalus.

There is no evidence of new intra- or extra-axial hemorrhage, or 
acute major vascular territorial infarction. The visualized 
paranasal sinuses and mastoid air cells are clear. No osseous 
lesions are identified.

IMPRESSION: Extensive bifrontal vasogenic edema from metastatic 
lesions with associated mass effect, unchanged from ___. For better assessment of the individual metastatic 
lesions, refer to the MR of the head ___.
.
BONE SCAN  ___ 

BONE SCAN

Reason: ___ YEAR OLD WOMAN WITH PRIMARY LEFT LOWER LUNG LESION 
AND CNS METS

RADIOPHARMECEUTICAL DATA:
27.0 mCi Tc-___ MDP ___
HISTORY: ___ year-old woman with lung lesion and brain metastasis 
- Please 
evaluate for osseous metastasis 

PRIOR STUDY: 
There is no prior bone scan available for review. 
CT chest, abdomen and pelvis from ___. 

INTERPRETATION: 
Whole body images of the skeleton were obtained in anterior and 
posterior
projections. There is focal increased tracer uptake in the 
mid-thoracic spine, likely corresponding to the sclerotic lesion 
seen on the prior CT at T6. There is mild increased tracer 
uptake in the lumbar spine, cervical spine and wrists, favored 
to be degenerative. 

The kidneys and urinary bladder are seen, the normal route of 
tracer excretion. 

IMPRESSION: 
Increased tracer uptake in the region of T6 likely corresponds 
to the sclerotic lesion on the prior CT. This is not specific 
and ___ be in keeping with a hemangioma. The possibility of an 
agressive process can not be excluded and follow-up is 
suggested. There is no other suspicious focus of increased 
tracer uptake identified.

 
Brief Hospital Course:
Patient was admitted with concerns for right frontal CNS lesion. 
 A brain MRI showed mutliple enhancing lesions with vasogenic 
edema and mass effect on the right lateral ventricle.  This 
likey represented metastatic disease.  Therefore a CT torso was 
obtained and showed a left lower lobe lung mass with enlarged 
mediastinal and supraclavicular lymph node.  Both 
radiation-oncology and oncology were consulted. She was placed 
on decadron, and keppra to prevent seizures.  She underwent a CT 
guided needle biopsy on ___ for diagnostic purposes with a 
report of non-small cell carcinoma, likely poorly differentiated 
squamous cell carcinoma.  On ___, her neurologic examination 
changed with new left proximal arm weakness.  A repeat head CT 
showed worsening edema without significant change in midline 
structures.  Radiation-oncology was notified with plans for 
WBXRT on ___. She underwent several sessions of whole brain 
radiation while in house.

 
Medications on Admission:
Celexa 40mg QD
Ativan 0.5mg PRN
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non Small Cell Lung Cancer

 
Discharge Condition:
good.

 
Discharge Instructions:
You were admitted to the hospital and found to have Non Small 
Cell Cell Lung Cancer, with metastases to your brain.
.
You were started on several new medications. Please continue to 
take these medications until instructed otherwise by your 
doctor.
.
Please continue to take decadron.
Please continue to take levitiracetam.
Please continue to take prilosec.
.
You will need to continue with whole brain radiation once you 
leave the hospital.  You need a total of 15 sessions.
.
You will need to call Dr. ___ at ___, to 
schedule an appointment once your radiation is completed.
.
Call your doctor or return to the hospital if you experiecne any 
worisome symptoms.
 
Followup Instructions:
___